US05173496
2-Chloromethyl-1-methylimidazole (0.91 g) was added portionwise to a stirred mixture of 1,2-dihydro-1-carboethoxy-3H-indazol-3-one (1.03 g), caesium carbonate (5.4 g) and N,N-dimethylformamide (DMF, 5 ml). The mixture was heated to 80° C. for 4 hours under an atmosphere of argon, cooled to ambient temperature and filtered. The filtrate was diluted with water and extracted with ethyl acetate. The solid was washed with ethyl acetate. The organic solutions were combined, washed with a saturated aqueous sodium chloride solution, dried (MgSO4) and evaporated. The oil residue crystallised on trituration under diethyl ether. There was thus obtained a mixture (1 g, 67% of 1,2-dihydro-1-carboethoxy-2-(1-methylimidazol-2-yl)methyl-3H-indazol-3-one and 1-carboethoxy-3-(1-methylimidazol-2-yl)methoxy-1H-indazole (starting material for Ex. 145).

reactant | 2-Chloromethyl-1-methylimidazole | 0.91 g | ClCC=1N(C=CN1)C | C5H7ClN2
reactant | 1,2-dihydro-1-carboethoxy-3H-indazol-3-one | 1.03 g | C(=O)(OCC)N1NC(C2=CC=CC=C12)=O | C10H10N2O3
reactant | caesium carbonate | 5.4 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 1,2-dihydro-1-carboethoxy-2-(1-methylimidazol-2-yl)methyl-3H-indazol-3-one | 1 g, 67% | C(=O)(OCC)N1N(C(C2=CC=CC=C12)=O)CC=1N(C=CN1)C | C15H16N4O3
